US04255429
The starting material is prepared as follows: The mixture of 25 g of 2,2-cyclohexane diacetic anhydride, 12.92 g of 4-aminopyridine, and 400 ml of xylene is refluxed for 25 hours using a water separator. The hot, supernatant xylene solution is decanted from an oil precipitate (which is discarded), cooled, filtered and the residue recrystallized from ethanol, to yield the 3-(4-pyridyl)-3-azaspiro[5,5]undecan-2,4-dione melting at 213°-215°.

reactant | 2,2-cyclohexane diacetic anhydride | 25 g | C1C2(CCCC1)CC(=O)OC(C2)=O | C10H14O3
reactant | 4-aminopyridine | 12.92 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-(4-pyridyl)-3-azaspiro[5,5]undecan-2,4-dione | N1=CC=C(C=C1)N1C(CC2(CC1=O)CCCCC2)=O | C15H18N2O2
